US08053458B2
5,5′-Dimethyl-2′-phenyl-2-(2,2,2-trifluoro-ethyl)-2H,2′H-[3,4′]bipyrazolyl-3′-ol
Prepare the title compound from 1-[1-phenyl-3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-4-yl]-butane-1,3-dione and 2,2,2-trifluoro-ethyl hydrazine (70% in water) according to the procedure of Example 28.

reactant | 1-[1-phenyl-3-methyl-5-oxo-4,5-dihydro-1H-pyrazol-4-yl]-butane-1,3-dione | C1(=CC=CC=C1)N1N=C(C(C1=O)C(CC(C)=O)=O)C | C14H14N2O3
reactant | 2,2,2-trifluoro-ethyl hydrazine | FC(CNN)(F)F | C2H5F3N2
product | 5,5′-Dimethyl-2′-phenyl-2-(2,2,2-trifluoro-ethyl)-2H,2′H-[3,4′]bipyrazolyl-3′-ol | CC=1C=C(N(N1)CC(F)(F)F)C1=C(N(N=C1C)C1=CC=CC=C1)O | C16H15F3N4O
